US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol-hydrochloride
5.2 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 4.8 g of 1,3-dicyclohexylthiourea were reacted according to the prescription made in Example 12, the end product was precipitated with 200 ml of diethyl ether and the oil was crystallized after decanting the solvent with diethyl ether. Colorless, crystalline solid body: melting point: 177° C (from acrylonitrile).

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.2 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-dicyclohexylthiourea | 4.8 g | C1(CCCCC1)NC(=S)NC1CCCCC1 | C13H24N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-cyclohexyl-2-cyclohexylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1CCCCC1)C1CCCCC1)O)S(N)(=O)=O | InChI=1S/C21H30ClN3O3S2.ClH/c22-18-12-11-15(13-19(18)30(23,27)28)21(26)14-29-20(24-16-7-3-1-4-8-16)25(21)17-9-5-2-6-10-17;/h11-13,16-17,26H,1-10,14H2,(H2,23,27,28);1H
